US07122562B2
In an analogous manner to that described in Example 1e), the aminolysis of the (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester with methylamine in a sealed tube at 80° C. in ethanol during 18 h yields the (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide as a white powder; MS: m/e=343 (M+H)+.

reactant | (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C19H18FNO4
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
product | (RS)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide | CNC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C19H19FN2O3
